US04870187
Ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1H-tetrazol-1-yl)-3-oxo-6,8-nonadienoate
Following the general procedure of Example 8, 196 mg (0.58 mmole) of 5,5-bis(4-fluorophenyl)-4-(1H-tetrazol-1-yl)-2,4-pentadienal was condensed with two equivalents (1.2 mmoles) of the dianion of ethyl acetoacetate. The product thereby produced was purified by silica gel chromatography using ethyl acetate-hexanes as eluent to yield 173.8 mg (61.5%) of the title compound.

reactant | 5,5-bis(4-fluorophenyl)-4-(1H-tetrazol-1-yl)-2,4-pentadienal | 0.58 mmole, 196 mg | FC1=CC=C(C=C1)C(=C(C=CC=O)N1N=NN=C1)C1=CC=C(C=C1)F | C18H12F2N4O
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | Ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1H-tetrazol-1-yl)-3-oxo-6,8-nonadienoate | 173.8 mg, 61.5% | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OCC)=O)O)N1N=NN=C1)C1=CC=C(C=C1)F | C24H22F2N4O4
